US07582773B2
Step 1: Synthesis of 6-Bromo-2,3,4,9-tetrahydro-1H-carbazole.
The desired product was prepared using a procedure similar to step 1 of example 3. Thus, 4-bromophenylhydrazine, hydrochloride (5.398 g, 24.15 mmol) was reacted with cyclohexanone (2.257 g, 23 mmol) in ethanol (60 ml) to give the product (4.871 g, 19.473 mmol, 85%) as a white solid, mp 148-151° C. 1H NMR (DMSO-d6) δ 1.74-1.83 (m, 4H), 2.57 (t, J=6.0 Hz, 2H), 2.68 (t, J=5.7 Hz, 2H), 7.06 (dd, J=1.8, 8.4 Hz, 1H), 7.18 (d, J=8.4 Hz, 1H), 7.46 (s, 1H), 10.84 (s, 1H); [ESI(−)], m/z 248/250 (M−H)−.

reactant | 4-bromophenylhydrazine, hydrochloride | 24.15 mmol, 5.398 g | Cl.BrC1=CC=C(C=C1)NN
reactant | cyclohexanone | 23 mmol, 2.257 g | C1(CCCCC1)=O | C6H10O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 6-Bromo-2,3,4,9-tetrahydro-1H-carbazole | BrC=1C=C2C=3CCCCC3NC2=CC1 | C12H12BrN
